### PR TITLE
feat: BitVec.toInt_abs

### PR DESCRIPTION
**Pull request by bollu**
This PR implements `BitVec.toInt_abs`.
A subtle wrinkle is to note that `abs (intMin w) = intMin w`, which complicates our proof.

Furthermore, toward this proof, we add an alternative to `msb_eq_decide` which is written purely in terms of `2^w`, instead of `2^(w - 1)`. This reduces the impedance mismatch with `toInt_eq_toNat_cond`:

```lean
theorem toInt_eq_toNat_cond (x : BitVec n) :
    x.toInt =
      if 2*x.toNat < 2^n then
        (x.toNat : Int)
      else
        (x.toNat : Int) - (2^n : Nat)
```

which makes many of the proofs much easier.

Additionally, we add definitions for `toInt_intMin` that express the value in terms of an `if-then-else` (to handle the case where `w = 0`, instead of the expression `-2^w % 2^(w - 1)`, which, while mathematically sound, is a pain to reason with. 

Finally, we add two other lemmas, `toInt_bounds_of_msb_eq_{true, false}` which prove the bounds of `x.toInt` when `x` is positive (resp. negative). This is useful to coax `omega` into proving the impossibility of certain cases when working with `toInt`.

---------

I'm not really sure what the best API design is here, and how I should split the API up, so advice is much appreciated

### CODE REVIEW

File: src/Init/Data/Int/Lemmas.lean [hunk 1]
```diff
@@ -531,4 +531,28 @@ theorem natCast_one : ((1 : Nat) : Int) = (1 : Int) := rfl
...
+theorem abs_eq_neg {x : Int} (h : x < 0) : x.abs = -x := by
+  cases x
+  case ofNat h => 
+    contradiction
+  case negSucc n =>
+    rfl
+
+@[simp]
+theorem ofNat_abs (x : Nat) : (x : Int).abs = (x : Int) := rfl
+
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/Lemmas.lean:557]:
```suggestion
theorem ofNat_abs {x : Nat} : (x : Int).abs = (x : Int) := rfl

```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -353,7 +354,19 @@ theorem msb_eq_getLsbD_last (x : BitVec w) :
...
+in order to avoid `2 ^ (w - 1)`.
+-/
+@[bv_toNat] theorem msb_eq_decide_le_mul_two (x : BitVec w) : 
+    BitVec.msb x = decide (2 ^ w ≤ 2 * x.toNat) := by
+  rw [x.msb_eq_getLsbD_last, x.getLsbD_last]
+  simp
+  rcases w with rfl | w  <;> simp <;> omega
+
+@[bv_toNat, deprecated msb_eq_decide_le_mul_two (since := "21-10-2024") ]
+theorem msb_eq_decide (x : BitVec w) : BitVec.msb x = decide (2 ^ (w-1) ≤ x.toNat) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:369]: Do we want to give it a new name? The old theorem statement was against conventions. I feel we can fix it inline.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -2643,6 +2678,52 @@ theorem toInt_neg_of_ne_intMin {x : BitVec w} (rs : x ≠ intMin w) :
...
+  simp
+  rcases w with rfl | w 
+  · rfl
+  · simp
+    have : 0 < 2^w := Nat.pow_pos (by decide)
+    have : 2^w < 2^(w + 1) := by
+      rw [Nat.pow_succ]
+      omega
+    rw [Nat.mod_eq_of_lt (by omega)]
+    simp
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2694]: This clearly needs some polishing / proof golfing.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -2643,6 +2678,52 @@ theorem toInt_neg_of_ne_intMin {x : BitVec w} (rs : x ≠ intMin w) :
...
+
+/--
+If the width is zero, then `intMin` is `0`,
+and otherwise it is `-2^(n - 1)`.
+-/
+theorem toInt_intMin_eq_if (n : Nat) : (BitVec.intMin n).toInt =
+  if n = 0 then 0 else - 2^(n - 1) := by
+  simp [BitVec.toInt_intMin]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2702]:
```suggestion
theorem toInt_intMin_eq_if (n : Nat) : (BitVec.intMin n).toInt =
    if n = 0 then 0 else - 2^(n - 1) := by
  simp [BitVec.toInt_intMin]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -2643,6 +2678,52 @@ theorem toInt_neg_of_ne_intMin {x : BitVec w} (rs : x ≠ intMin w) :
...
+
+/--
+Negating `intMin` returns `intMin`.
+Thus, converting `(-x)` to an `Int` return `- x.toInt` for all bitvectors other than `intMin`.
+-/
+theorem toInt_neg_eq_if {x : BitVec n} : 
+  (-x).toInt = 
+  if x = intMin n
+  then x.toInt
+  else - x.toInt := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2721]:
```suggestion
theorem toInt_neg_eq_if {x : BitVec n} : 
    (-x).toInt = if x = intMin n then x.toInt else - x.toInt := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -2674,6 +2755,42 @@ theorem getLsbD_intMax (w : Nat) : (intMax w).getLsbD i = decide (i + 1 < w) :=
   · rw [Nat.sub_add_cancel (Nat.two_pow_pos (w - 1)), Nat.two_pow_pred_mod_two_pow (by omega)]
 
 
+/-! ### abs -/
+
+theorem abs_def {x : BitVec w} : x.abs = if x.msb then .neg x else x := rfl
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2761]:
```suggestion
theorem abs_def {x : BitVec w} : x.abs = if x.msb then -x else x := rfl

```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 7]
```diff
@@ -2674,6 +2755,42 @@ theorem getLsbD_intMax (w : Nat) : (intMax w).getLsbD i = decide (i + 1 < w) :=
...
+theorem abs_eq_if (x : BitVec w) : x.abs = 
+    if x.msb = true then
+      if x = BitVec.intMin w then (BitVec.intMin w) else -x
+    else x := by
+  · rw [BitVec.abs_def]
+    by_cases hx : x.msb = true <;> by_cases hx' : x = BitVec.intMin w <;> simp [hx, hx']
+
+theorem toInt_abs (x : BitVec w) :
+    x.abs.toInt = if x = (intMin w) then if w = 0 then 0 else - 2^(w - 1) else x.toInt.abs := by
+  rcases w with rfl | w
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2771]:
```suggestion
    x.abs.toInt = if x = (intMin w) then (intMin w).toInt else x.toInt.abs := by
  rcases w with rfl | w 
```

File: src/Init/Data/Int/Basic.lean [hunk 8]
```diff
@@ -333,6 +333,13 @@ instance : Min Int := minOfLe
 
 instance : Max Int := maxOfLe
 
+/--
+Return the absolute value of an integer.
+-/
+def abs : Int → Int
+  | ofNat n   => .ofNat n
+  | negSucc n => .ofNat n.succ
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/Basic.lean:341]: Can you double-check what exists in mathlib with respect to here, make sure our changes are in-line with mathlib, and document your insights in the PR description?

File: src/Init/Data/BitVec/Lemmas.lean (hunk 6 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:2761]: This repeats the definition? Hence, why is this needed?

**Comment by tobiasgrosser** [comment]
Also, do not drop `toNat_abs` entirely.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 9]
```diff
@@ -2674,6 +2755,42 @@ theorem getLsbD_intMax (w : Nat) : (intMax w).getLsbD i = decide (i + 1 < w) :=
...
+/-! ### abs -/
+
+theorem abs_def {x : BitVec w} : x.abs = if x.msb then .neg x else x := rfl
+
+theorem abs_eq_if (x : BitVec w) : x.abs = 
+    if x.msb = true then
+      if x = BitVec.intMin w then (BitVec.intMin w) else -x
+    else x := by
+  · rw [BitVec.abs_def]
+    by_cases hx : x.msb = true <;> by_cases hx' : x = BitVec.intMin w <;> simp [hx, hx']
```
[the remark this answers is not in the document]
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:2767]: It more precisely says what happens at `intMin`, and in the other cases, describes the value in terms of what "one would expect".

I agree that, mathematically, the case of `if x = BitVec.intMin w then (BitVec.intMin w)` is redundant, since we have the equality `- (BitVec.intMin w) = BitVec.intMin w`.

However, this (at least to me) makes thinking about the entire operation much harder.  Psychologically, it feels much cleaner to me to state it as:

- If the number is positive, then it stays unchanged
- If it's negative, and equal to `intMin`, then it stays `intMin`
- otherwise, it's negative and not equal to `intMin`, and is negated to become positive. 


---

I don't have strong opinions on this, but I try to explain why I felt the need to add a new definition :)

File: src/Init/Data/BitVec/Lemmas.lean (hunk 2 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:402]: I decided to change `msb_eq_decide` to be the more natural definition.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 3 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:2910]: Golfed :)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 10]
```diff
@@ -2891,6 +2956,51 @@ theorem getLsbD_intMax (w : Nat) : (intMax w).getLsbD i = decide (i + 1 < w) :=
...
+@[simp, bv_toNat]
+theorem toNat_abs {x : BitVec w} : x.abs.toNat = if x.msb then 2^w - x.toNat else x.toNat := by
+  simp only [abs_def, neg_eq]
+  by_cases h : x.msb = true
+  · simp only [h, ↓reduceIte, toNat_neg]
+    have : 2 * x.toNat ≥ 2 ^ w := BitVec.msb_eq_true_iff_two_mul_ge.mp h
+    rw [Nat.mod_eq_of_lt (by omega)]
+  · simp [h]
+
+theorem abs_eq_if (x : BitVec w) : x.abs =
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:2972]:
```suggestion
theorem abs_eq_ite (x : BitVec w) : x.abs = 
```

I think we generally refer to if-then-else as ite in theorem names

File: src/Init/Data/BitVec/Lemmas.lean [hunk 11]
```diff
@@ -2891,6 +2956,51 @@ theorem getLsbD_intMax (w : Nat) : (intMax w).getLsbD i = decide (i + 1 < w) :=
...
+  by_cases h : x.msb = true
+  · simp only [h, ↓reduceIte, toNat_neg]
+    have : 2 * x.toNat ≥ 2 ^ w := BitVec.msb_eq_true_iff_two_mul_ge.mp h
+    rw [Nat.mod_eq_of_lt (by omega)]
+  · simp [h]
+
+theorem abs_eq_if (x : BitVec w) : x.abs = 
+    if x.msb = true then
+      if x = BitVec.intMin w then (BitVec.intMin w) else -x
+    else x := by
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:2975]:
```suggestion
    if x.msb = false then
      x
    else if x = BitVec.intMin w then 
      (BitVec.intMin w) 
    else 
      -x := by
```
Purely aesthetical, but I'm not a big fan of nested ifs

**Comment by kim-em** [comment]
@bollu, I updated the PR title to include `BitVec`: it's important these are understandable without context.

File: src/Init/Data/Int/Basic.lean (hunk 8 above)
Comment (bollu) [reply src/Init/Data/Int/Basic.lean:341]: image

mathlib defines absolute value in the cutest way, as `a U -a` for any group `G` with a lattice structure on it. The lattice structure on `Int` is derived from the order of `<` on it, so this should become equal to our definition, but we cannot reuse the mathlib definition.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 12]
```diff
@@ -496,6 +501,37 @@ theorem toInt_pos_iff {w : Nat} {x : BitVec w} :
     0 ≤ BitVec.toInt x ↔ 2 * x.toNat < 2 ^ w := by
   simp [toInt_eq_toNat_cond]; omega
 
+/-
+If `x.msb` is false, then the value of `x` when interpreted as a 2s complement
+integer is between `[0..2^n/2)`. 
+-/
+theorem toInt_bounds_of_msb_eq_false {x : BitVec n} (hmsb : x.msb = false) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:508]: @kim-em what do I name this theorem? I want to express that this gives us bounds on `x.toInt` when it is know that `x.msb = false`.

Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:508]: A similar concern for `toInt_bounds_of_msb_eq_true`.

File: src/Init/Data/Int/Basic.lean (hunk 8 above)
Comment (alexkeizer) [inline src/Init/Data/Int/Basic.lean:341]: Is this not just [`Int.natAbs`](https://leanprover-community.github.io/mathlib4_docs/Init/Data/Int/Basic.html#Int.natAbs) plus a coercion from Nat to Int?

Comment (bollu) [reply src/Init/Data/Int/Basic.lean:341]: Certainly. Is that how you'd like me to spell it?
